US06479487B1
1-(3-Hydroxypropyl)-4-piperidone is prepared from 4-piperidone and 3-chloro-1-propanol essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 3-chloro-1-propanol | ClCCCO | C3H7ClO
product | 1-(3-Hydroxypropyl)-4-piperidone | OCCCN1CCC(CC1)=O | C8H15NO2
